US07960369B2
3-[4-[[3-[phenyl(propyl)amino]benzyl]oxy]phenyl]propanoic acid
To a solution of methyl 3-[4-[(3-anilinobenzyl)oxy]phenyl]propanoate (0.20 g, 0.58 mmol) in N,N-dimethylformamide (4 mL) was added 60% sodium hydride (0.035 g, 0.86 mmol) with stirring at 0° C., and the mixture was stirred at the same temperature for 10 min. n-Propylbromide (0.063 mL, 0.69 mmol) and sodium iodide (0.10 g, 0.69 mmol) were added to this mixture with stirring at 0° C., and the mixture was stirred at room temperature for 16 hrs. The reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried, and concentrated under reduced pressure. Then the residue was dissolved in a mixed solution of methanol (3 mL) and tetrahydrofuran (6 mL), 1N aqueous sodium hydroxide solution (1.5 mL) was added, and the mixture was stirred at room temperature for 1 hr. The reaction mixture was adjusted to pH 3 with 1N hydrochloric acid, separated and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=4/1-1/2) to give the title compound (0.11 g, yield 47%) as colorless crystals. MS (APCI−): 388 (M−H).

reactant | methyl 3-[4-[(3-anilinobenzyl)oxy]phenyl]propanoate | 0.58 mmol, 0.20 g | N(C1=CC=CC=C1)C=1C=C(COC2=CC=C(C=C2)CCC(=O)OC)C=CC1 | C23H23NO3
reactant | sodium hydride | 0.86 mmol, 0.035 g | [H-].[Na+]
reactant | n-Propylbromide | 0.69 mmol, 0.063 mL | C(CC)Br | C3H7Br
reactant | sodium iodide | 0.69 mmol, 0.10 g | [I-].[Na+]
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[4-[[3-[phenyl(propyl)amino]benzyl]oxy]phenyl]propanoic acid | 0.11 g, yield 47% | C1(=CC=CC=C1)N(C=1C=C(COC2=CC=C(C=C2)CCC(=O)O)C=CC1)CCC | C25H27NO3
